US06342765B1
tert-Butyl (2S)-2-{5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfanylbutyrate
The title compound was prepared in 80% yield from 5-(1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy)-2-(4-fluorophenethyl)benzoic acid and L-methionine tert-butyl ester by a similar method to that used for Example 34. 1H NMR (DMSO-d6, 300 MHz) δ: 1.38 (9H,s); 1.88-2.0 (2H,m); 2.02 (3H,d); 2.62-2.75 (2H,m); 2.75-2.9 (2H,m); 4.32-4.42 (1H, m); 4.68 (2H,d); 5.83 (1H,m); 6.79-6.83 (2H,md); 6.95-7.1 (3H,m); 7.1-7.28 (4H,m); 7.45-7.52 (2H,dd); 7.61 (1H,s); 7.68 (1H,s); 8.62 (1H,t); 9.08 (1H,s). MS (ES+) m/z 636.4 (MH+); Anal.calculated for C35H39F2N3O4S.2.7H2O C, 61.4; H, 6.5; N, 6.1%; Found: C, 61.1; H, 6.2; N, 5.7%.

reactant | 5-(1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy)-2-(4-fluorophenethyl)benzoic acid | FC1=CC=C(C=C1)C(CN1C=NC=C1)OC=1C=CC(=C(C(=O)O)C1)CCC1=CC=C(C=C1)F | C26H22F2N2O3
reactant | L-methionine tert-butyl ester | C(C)(C)(C)OC([C@@H](N)CCSC)=O | C9H19NO2S
product | tert-Butyl (2S)-2-{5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethyl)benzoylamino}-4-methylsulfanylbutyrate | 80% yield | FC1=CC=C(C=C1)C(CN1C=NC=C1)OC=1C=CC(=C(C(=O)N[C@H](C(=O)OC(C)(C)C)CCSC)C1)CCC1=CC=C(C=C1)F | C35H39F2N3O4S
